US09227973B2
Step A: (5R,6S,9R and 5S,6R,9S)-6-(2,3-Difluorophenyl)-5-fluoro-9-((triisopropylsilyl)oxy)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine
Deoxo-Fluor® (0.148 g, 0.670 mmol) was added dropwise to a solution of (5S,6S,9R and 5R,6R,9S)-6-(2,3-difluorophenyl)-9-((triisopropylsilyl)oxy)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-5-ol (prepared according to the procedures described by Leahy, D. K et al Org. Lett. 2012, 14, 4938-4941, 0.30 g, 0.67 mmol) and triethylamine (0.093 mL, 0.67 mmol) in 1,2-dichloroethane (2 mL) at 0° C. The resulting mixture was gradually warmed to 23° C. and stirred for 2 h, then partitioned between saturated aqueous sodium bicarbonate solution and dichloromethane (3×). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, and concentrated. The residue was purified by flash chromatography on silica gel, eluting with 35% dichloromethane in petroleum ether to give the title compound as a racemic mixture. MS: m/z=450.2 (M+1).

reactant | Deoxo-Fluor | COCCN(CCOC)S(F)(F)F | C6H14F3NO2S
reactant | 6-(2,3-difluorophenyl)-9-((triisopropylsilyl)oxy)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-5-ol | FC1=C(C=CC=C1F)C1C(C=2C(=NC=CC2)C(CC1)O[Si](C(C)C)(C(C)C)C(C)C)O | C25H35F2NO2Si
reactant | triethylamine | 0.67 mmol, 0.093 mL | C(C)N(CC)CC | C6H15N
solvent | 1,2-dichloroethane | 2 mL | ClCCCl | C2H4Cl2
product | 6-(2,3-Difluorophenyl)-5-fluoro-9-((triisopropylsilyl)oxy)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine | FC1=C(C=CC=C1F)C1C(C=2C(=NC=CC2)C(CC1)O[Si](C(C)C)(C(C)C)C(C)C)F | C25H34F3NOSi
